US05407936
5-Chloro-1-isopropylbenzimidazol-2-one (4.0 g) was dissolved in o-dichlorobenzene (80 ml) and thereto was added dropwise 70% nitric acid (2.0 g). The mixture was stirred at 60° C. for 1 hour and left to stand for cooling. The precipitated crystal was separated by filtration and washed with diethyl ether and water to give 5-chloro-1-isopropyl-6-nitrobenzimidazol-2-one (4.1 g). A part of the obtained product was recrystallized from ethanol, which showed the following physical properties:

reactant | 5-Chloro-1-isopropylbenzimidazol-2-one | 4.0 g | ClC1=CC2=C(N(C(N2)=O)C(C)C)C=C1 | C10H11ClN2O
reactant | nitric acid | 2.0 g | [N+](=O)(O)[O-] | HNO3
solvent | o-dichlorobenzene | 80 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-chloro-1-isopropyl-6-nitrobenzimidazol-2-one | 4.1 g | ClC1=CC2=C(N(C(N2)=O)C(C)C)C=C1[N+](=O)[O-] | C10H10ClN3O3
